*******************************
*
* © 	harris semiconductor
*	21st april 1998
*	version 3.1
*
* representing typical characteristics for the following la-series varistors: 
*
* v130la1	 v130la2	 v130la5	 v130la10a	 v130la20a	 v130la20b
* v140la2	 v140la5	 v140la10a	 v140la20a
* v150la1	 v150la2	 v150la5	 v150la10a	 v150la20a	 v150la20b
* v175la2	 v175la5	 v175la10a	 v175la20a
* v230la4	 v230la10	 v230la20a	 v230la40a
* v250la2	 v250la4 	 v250la10	 v250la20a	 v250la40a	 v250la40b
* v275la2 	 v275la4	 v275la10	 v275la20a	 v275la40a	 v275la40b
* v300la2	 v300la4	 v300la10	 v300la20a	 v300la40a
* v320la7	 v320la10	 v320la20a	 v320la40b
* v385la7	 v385la10	 v385la20a	 v385la40b
* v420la7	 v420la10	 v420la20a	 v420la40b
* v480la7	 v480la10	 v480la40a	 v480la80b
* v510la10	 v510la40a	 v510la80b
* v575la10	 v575la40a	 v575la80b
* v625al10	 v625la40a	 v625la80b
* v660la10	 v660la50a	 v660la100b
* v1000la80a	 v1000la160b
*
.SUBCKT mov1 1 2 PARAMS: T=1 C=1pF L=1nH a1=1 a2=0 a3=0 a4=0 a5=0 a6=100u a7=100u
.param v8={a1+a2*(log10(a7/1e3))+a3/(a7/1e3)+a4*exp(-log10(a7/1e3))+a5*exp(log10(a7/1e3))}
 Bcalc 0 10  i=a1+a2*(log10(limit(v(4),a7,1g))-3)
+			+a3/limit(v(4)*.001,a7/1e3,1g)
+			+a4*exp(-log10(limit(v(4),a7,1g))+3)
+ 			+a5*exp(log10(limit(v(4),a7,1g))-3)
+ 			-(a1+a2*(log10(-limit(v(4),-1g,-a7))-3)
+			-a3/limit(v(4)*.001,-1g,-a7/1e3)
+			+a4*exp(-log10(-limit(v(4),-1g,-a7))+3)
+ 			+a5*exp(log10(-limit(v(4),-1g,-a7))-3))
+ 			+limit(v(4)/a7*v8,-v8,v8) Rpar=1 Cpar=10f
 Bnon_lin 3 1 v=v(10) ;tripdv=10m tripdt=10n
*
 Lseries	5 2  {L} Rser={a6} rpar=10
 C 1 2 1p
 Bh 0 4  i=i(VH_H1) Rpar=1k Cpar=5p
 VH_H1		5 7 0V  
 V_V1		3 7  0V
 C_parallel	1 2 {C} 
.ENDS MOV1



*
.Subckt v130la1 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=180pf a1=269.3 a2=15.58 a3=-1.522e-5 a4=7.447e-2 a5=8.22 a6=65.2e-3
.Ends
*
.Subckt v130la2 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=180pf a1=251.5 a2=14.55 a3=-1.422e-5 a4=6.955e-2 a5=7.68 a6=60.9e-3
.Ends
*
.Subckt v130la5 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=450pf a1=257.1 a2=18.51 a3=-5.593e-5 a4=.1655 a5=3.839 a6=29.7e-3 a7=4e-4
.Ends
*
.Subckt v130la10a 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=1nf a1=248.4 a2=15.26 a3=-3.433e-5 a4=0.1078 a5=4.643 a6=7.345e-3 a7=4e-4
.Ends
*
.Subckt v130la20a 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=1.9nf a1=245.6 a2=13.53 a3=-3.912e-5 a4=39.94e-3 a5=3.576 a6=0.01458 a7=4e-4
.Ends
*
.Subckt v130la20b 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=1.9nf a1=240.9 a2=13.27 a3=-3.836e-5 a4=39.17e-3 a5=3.506 a6=0.01429 a7=4e-4
.Ends
*
.Subckt v140la2 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=160pf a1=269.9 a2=15.61 a3=-1.526e-5 a4=7.464e-2 a5=8.24 a6=65.4e-3
.Ends
*
.Subckt v140la5 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=400pf a1=275.9 a2=19.86 a3=-6.002e-5 a4=.1777 a5=4.12 a6=31.87e-3 a7=4e-4
.Ends
*
.Subckt v140la10a 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=900pf a1=266.6 a2=16.38 a3=-3.684e-5 a4=0.1157 a5=4.982 a6=7.883e-3 a7=4e-4
.Ends
*
.Subckt v140la20a 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=1.75nf a1=262.3 a2=14.45 a3=-4.177e-5 a4=42.66e-3 a5=3.819 a6=0.01557 a7=4e-4
.Ends
*
.Subckt v150la1 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=150pf a1=304.2 a2=17.6 a3=-1.72e-5 a4=8.414e-2 a5=9.29 a6=73.7e-3
.Ends
*
.Subckt v150la2 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=150pf a1=294.4 a2=17.03 a3=-1.665e-5 a4=8.142e-2 a5=8.99 a6=71.3e-3
.Ends
*
.Subckt v150la5 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=360pf a1=301 a2=21.67 a3=-6.548e-5 a4=.1938 a5=4.494 a6=34.77e-3 a7=4e-4
.Ends
*
.Subckt v150la10a 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=800pf a1=290.8 a2=17.87 a3=-4.019e-5 a4=0.1262 a5=5.435 a6=8.599e-3 a7=4e-4
.Ends
*
.Subckt v150la20a 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=1.6nf a1=286.2 a2=15.76 a3=-4.557e-5 a4=46.53e-3 a5=4.166 a6=0.01698 a7=4e-4
.Ends
*
.Subckt v150la20b 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=1.6nf a1=271.9 a2=14.97 a3=-4.329e-5 a4=44.21e-3 a5=3.958 a6=0.01613 a7=4e-4
.Ends
*
.Subckt v175la2 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=130pf a1=337.3 a2=19.52 a3=-1.907e-5 a4=9.33e-2 a5=10.3 a6=81.7e-3
.Ends
*
.Subckt v175la5 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=350pf a1=344.8 a2=24.83 a3=-7.503e-5 a4=.2221 a5=5.15 a6=39.84e-3 a7=4e-4
.Ends
*
.Subckt v175la10a 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=700pf a1=333.2 a2=20.47 a3=-4.606e-5 a4=0.1446 a5=6.228 a6=9.854e-3 a7=4e-4
.Ends
*
.Subckt v175la20a 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=1.4nf a1=327.9 a2=18.06 a3=-5.222e-5 a4=53.32e-3 a5=4.773 a6=0.01946 a7=4e-4
.Ends
*
.Subckt v230la4 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=100pf a1=441.6 a2=25.55 a3=-2.497e-5 a4=1.221e-1 a5=13.48 a6=107e-3
.Ends
*
.Subckt v230la10 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=250pf a1=451.4 a2=32.5 a3=-9.822e-5 a4=.2907 a5=6.741 a6=52.16e-3 a7=4e-4
.Ends
*
.Subckt v230la20a 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=550pf a1=436.3 a2=26.8 a3=-6.029e-5 a4=0.1894 a5=8.153 a6=12.9e-3 a7=4e-4
.Ends
*
.Subckt v230la40a 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=1.1nf a1=434.6 a2=23.55 a3=-3.898e-5 a4=-0.2066 a5=4.394 a6=0.02538 a7=4e-4
.Ends
*
.Subckt v250la2 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=90pf a1=507.8 a2=29.38 a3=-2.872e-5 a4=0.1405 a5=15.51 a6=0.123
.Ends
*
.Subckt v250la4 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=90pf a1=478.4 a2=27.68 a3=-2.705e-5 a4=0.1323 a5=14.61 a6=0.1159
.Ends
*
.Subckt v250la10 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=220pf a1=489.1 a2=35.21 a3=-1.064e-4 a4=.3149 a5=7.303 a6=56.5e-3 a7=4e-4
.Ends
*
.Subckt v250la20a 1 2 params: tol=0
x1	1 2 mov11 params: t={1+tol/100} l=12nh c=500pf a1=472.6 a2=29.03 a3=-6.532e-5 a4=0.2051 a5=8.833 a6=13.97e-3 a7=4e-4
.Ends
*
.Subckt v250la40a 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=1nf a1=473.3 a2=25.65 a3=-4.244e-5 a4=-0.225 a5=4.785 a6=0.02764 a7=4e-4
.Ends
*
.Subckt v250la40b 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=1nf a1=463.6 a2=25.12 a3=-4.157e-5 a4=-0.2204 a5=4.687 a6=0.02707 a7=4e-4
.Ends
*
.Subckt v275la2 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=80pf a1=554.4 a2=32.08 a3=-3.135e-5 a4=0.1533 a5=16.93 a6=0.1343
.Ends
*
.Subckt v275la4 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=80pf a1=527.5 a2=30.52 a3=-2.982e-5 a4=0.1459 a5=16.11 a6=0.1278
.Ends
*
.Subckt v275la10 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=200pf a1=539.2 a2=38.82 a3=-1.173e-4 a4=.3472 a5=8.052 a6=62.3e-3 a7=4e-4
.Ends
*
.Subckt v275la20a 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=450pf a1=521.1 a2=32.01 a3=-7.201e-5 a4=0.2262 a5=9.738 a6=15.41e-3 a7=4e-4
.Ends
*
.Subckt v275la40a 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=900pf a1=520.3 a2=28.2 a3=-4.666e-5 a4=-0.2474 a5=5.261 a6=0.03039 a7=4e-4
.Ends
*
.Subckt v275la40b 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=900pf a1=508.3 a2=27.54 a3=-4.558e-5 a4=-0.2416 a5=5.139 a6=0.02968 a7=4e-4
.Ends
*
.Subckt v300la2 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=70pf a1=604.7 a2=34.99 a3=-3.419e-5 a4=0.1673 a5=18.47 a6=0.1465
.Ends
*
.Subckt v300la4 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=70pf a1=576.5 a2=33.36 a3=-3.26e-5 a4=0.1594 a5=17.6 a6=0.1397
.Ends
*
.Subckt v300la10 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=180pf a1=589.4 a2=42.44 a3=-1.282e-4 a4=.3795 a5=8.801 a6=68.09e-3 a7=4e-4
.Ends
*
.Subckt v300la20a 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=400pf a1=569.6 a2=34.99 a3=-7.871e-5 a4=0.2472 a5=10.64 a6=16.84e-3 a7=4e-4
.Ends
*
.Subckt v300la40a 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=800pf a1=565 a2=30.62 a3=-5.067e-5 a4=-0.2686 a5=5.712 a6=0.033 a7=4e-4
.Ends
*
.Subckt v320la7 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=65pf a1=625.6 a2=36.19 a3=-3.537e-5 a4=0.173 a5=19.1 a6=0.1516
.Ends
*
.Subckt v320la10 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=170pf a1=639.5 a2=46.05 a3=-1.391e-4 a4=0.4118 a5=9.55 a6=73.89e-3 a7=4e-4
.Ends
*
.Subckt v320la20a 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=380pf a1=618 a2=37.97 a3=-8.541e-5 a4=0.2682 a5=11.55 a6=18.27e-3 a7=4e-4
.Ends
*
.Subckt v320la40b 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=750pf a1=620.6 a2=33.63 a3=-5.565e-5 a4=-0.295 a5=6.274 a6=0.03624 a7=4e-4
.Ends
*
.Subckt v385la7 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=60pf a1=760.5 a2=44 a3=-4.3e-5 a4=0.2103 a5=23.22 a6=0.1843
.Ends
*
.Subckt v385la10 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=160pf a1=777.5 a2=55.98 a3=-1.692e-4 a4=.5007 a5=11.61 a6=89.82e-3 a7=4e-4
.Ends
*
.Subckt v385la20a 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=360pf a1=751.3 a2=46.16 a3=-1.038e-4 a4=0.3261 a5=14.04 a6=22.22e-3 a7=4e-4
.Ends
*
.Subckt v385la40b 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=700pf a1=748.5 a2=40.56 a3=-6.713e-5 a4=-0.3559 a5=7.568 a6=0.04371 a7=4e-4
.Ends
*
.Subckt v420la7 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=55pf a1=834.1 a2=48.26 a3=-4.717e-5 a4=0.2307 a5=25.47 a6=0.2021
.Ends
*
.Subckt v420la10 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=140pf a1=852.7 a2=61.4 a3=-1.885e-4 a4=.5491 a5=12.73 a6=98.52e-3 a7=4e-4
.Ends
*
.Subckt v420la20a 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=300pf a1=824 a2=50.62 a3=-1.139e-4 a4=0.3577 a5=15.4 a6=24.37e-3 a7=4e-4
.Ends
*
.Subckt v420la40b 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=600pf a1=819.8 a2=44.42 a3=-7.351e-5 a4=-0.3897 a5=8.288 a6=0.04787 a7=4e-4
.Ends
*
.Subckt v480la7 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=55pf a1=920 a2=53.23 a3=-5.202e-5 a4=0.2544 a5=28.09 a6=0.2229
.Ends
*
.Subckt v480la10 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=120pf a1=940.5 a2=67.72 a3=-2.046e-4 a4=.6056 a5=14.04 a6=0.1087 a7=4e-4
.Ends
*
.Subckt v480la40a 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=270pf a1=908.9 a2=55.83 a3=-1.256e-4 a4=0.3945 a5=16.99 a6=26.87e-3 a7=4e-4
.Ends
*
.Subckt v480la80b 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=550pf a1=901.9 a2=48.87 a3=-8.088e-5 a4=-0.4288 a5=9.118 a6=0.05267 a7=4e-4
.Ends
*
.Subckt v510la10 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=100pf a1=1028 a2=74.04 a3=-2.237e-4 a4=.6622 a5=15.36 a6=0.1188 a7=4e-4
.Ends
*
.Subckt v510la40a 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=250pf a1=993.7 a2=61.05 a3=-1.373e-4 a4=0.4313 a5=18.57 a6=29.38e-3 a7=4e-4
.Ends
*
.Subckt v510la80b 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=500pf a1=963.4 a2=52.21 a3=-8.64e-5 a4=-0.458 a5=9.74 a6=0.05626 a7=4e-4
.Ends
*
.Subckt v575la10 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=90pf a1=1129 a2=81.26 a3=-2.456e-4 a4=.7268 a5=16.85 a6=0.1304 a7=4e-4
.Ends
*
.Subckt v575la40a 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=220pf a1=1091 a2=67 a3=-1.507e-4 a4=0.4734 a5=20.38 a6=32.25e-3 a7=4e-4
.Ends
*
.Subckt v575la80b 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=450pf a1=1066 a2=57.77 a3=-9.56e-5 a4=-0.5068 a5=10.78 a6=0.06226 a7=4e-4
.Ends
*
.Subckt v625la10 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=80pf a1=1254 a2=90.29 a3=-2.728e-4 a4=.8075 a5=18.73 a6=0.1449 a7=4e-4
.Ends
*
.Subckt v625la40a 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=210pf a1=1212 a2=74.45 a3=-1.675e-4 a4=0.526 a5=22.65 a6=35.83e-3 a7=4e-4
.Ends
*
.Subckt v625la80b 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=425pf a1=1231 a2=66.73 a3=-1.104e-4 a4=-0.5855 a5=12.45 a6=0.07191 a7=4e-4
.Ends
*
.Subckt v660la10 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=70pf a1=1348 a2=97.06 a3=-2.933e-4 a4=0.8681 a5=20.13 a6=0.1557 a7=4e-4
.Ends
*
.Subckt v660la50a 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=200pf a1=1303 a2=80.03 a3=-1.8e-4 a4=0.5654 a5=24.35 a6=38.52e-3 a7=4e-4
.Ends
*
.Subckt v660la100b 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=400pf a1=1231 a2=66.73 a3=-1.104e-4 a4=-0.5855 a5=12.45 a6=0.07191 a7=4e-4
.Ends
*
.Subckt v1000la80a 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=130pf a1=1957 a2=120.2 a3=-2.705e-4 a4=0.8494 a5=36.58 a6=57.87e-3 a7=4e-4
.Ends
*
.Subckt v1000la160b 1 2 params: tol=0
x1	1 2 mov1 params: t={1+tol/100} l=12nh c=250pf a1=1827 a2=98.99 a3=-1.638e-4 a4=-0.8684 a5=18.47 a6=0.1067 a7=4e-4
.Ends
*